US04113727
Under a nitrogen atmosphere, there is added 54 liters of acetone to 5.4 kilograms (16.9 mole) of 5-(2-amino-2-phenylethenyl)-N-methyl-3-phenyl-isoxazole-4-carboxamide at room temperature. To the resulting suspension, there is added 10.8 liters of approximately 5N hydrochloric acid while maintaining the temperature below 25° C. The mixture is then stirred overnight at 25° to 28° C. The resulting suspension is diluted with 16 liters of water at room temperature, and after mixing for 15 minutes, the solids are then filtered off and washed three times with a mixture of acetone/water (2:1). The resulting solids are then dried under reduced pressure at 45° C. to obtain 3.86 kilograms of 5-methyl-3,6-diphenyl-isoxazolo[4,5-c]pyridine-4(5H)-one; m.p. 145° to 148° C. The mother liquor is then concentrated under reduced pressure maintaining the temperature below 50° C. The mother liquor is then cooled to 20° C., the solids filtered off and washed three times with acetone/water (2:1) to obtain a second crop of 290 grams of 5-methyl-3,6-diphenyl-isoxazolo[4,5-c]pyridine-4(5H)-one; m.p. 140° to 145° C.; Yield 81%.

reactant | acetone | 54 liters | CC(=O)C | C3H6O
reactant | 5-(2-amino-2-phenylethenyl)-N-methyl-3-phenyl-isoxazole-4-carboxamide | 16.9 mole, 5.4 kilograms | NC(=CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NC)C1=CC=CC=C1 | C19H17N3O2
reactant | hydrochloric acid | approximately 5N, 10.8 liters | Cl | ClH
solvent | water | 16 liters | O | H2O
product | 5-methyl-3,6-diphenyl-isoxazolo[4,5-c]pyridine-4(5H)-one | 3.86 kilograms | CN1C(C2=C(C=C1C1=CC=CC=C1)ON=C2C2=CC=CC=C2)=O | C19H14N2O2
